US04599330
A mixture of 1.05 g (0.0019 mol) of [1α,3β]-24,24-difluorocholest-5-en-1,3,25-triol 1,3-diacetate, 0.84 g of sodium bicarbonate, 0.357 g (0.0012 mol) of 1,3-dibromo-5,5-dimethylhydantoin and 40 mL of hexane was heated at reflux (80° C.) for 1 hr and cooled. The mixture was filtered and the solids were triturated with hexane and filtered. The filtrates were evaporated to dryness to yield [1α,3β,7ξ]-7-bromo-24,24-difluorocholest-5-en-1,3,25-triol 1,3-diacetate.

reactant | [1α,3β]-24,24-difluorocholest-5-en-1,3,25-triol 1,3-diacetate | 0.0019 mol, 1.05 g | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)(C)O)(F)F)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C31H48F2O5
reactant | sodium bicarbonate | 0.84 g | C([O-])(O)=O.[Na+]
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 0.0012 mol, 0.357 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
solvent | hexane | 40 mL | CCCCCC | C6H14
product | [1α,3β,7ξ]-7-bromo-24,24-difluorocholest-5-en-1,3,25-triol 1,3-diacetate | C(C)(=O)O[C@H]1C[C@@H](CC2=CC([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)(C)O)(F)F)C)[C@]4(CC[C@@H]3[C@@]12C)C)Br)OC(C)=O | C31H47BrF2O5
